US06903085B1
3-[3-(2-Pyridinyl)-1,2,4-triazol-5-yl]propanoic acid (0.218 g) in 1 ml dimethylacetamide) and N,N′-carbonyldiimidazole (0.250 g) in dichloromethane was stirred under nitrogen for 30 minutes. 1-(3,4-Dichlorobenzyl)-4-piperidinamine hydrochloride (0.316 g), and triethylamine (0.218 g) was then added and allowed to stir for 2 hours under nitrogen. 1M sodium hydroxide was added to the reaction with the resulting solution being washed three times with dichloromethane. The aqueous phase was acidified with glacial acetic acid, with the water/acetic acid being removed under reduced pressure. Water was then added and extracted three times with dichloromethane. The pooled organic phases were extracted once with water and the water removed under reduced pressure to leave a white solid. This was then triturated with diethyl ether/dichloromethane, filtered and was purified by RPHPLC (75%-5%, 0.1% ammonium acetate/acetonitrile), solvent removed to leave N-[1-(3,4-dichlorobenzyl)-4-piperidinyl]-3-[3-(2-pyridinyl)-1H-1,2,4-triazol-5-yl]propanamide (0.02 g).

reactant | 3-[3-(2-Pyridinyl)-1,2,4-triazol-5-yl]propanoic acid | 0.218 g | N1=C(C=CC=C1)C1=NNC(=N1)CCC(=O)O | C10H10N4O2
reactant | 1-(3,4-Dichlorobenzyl)-4-piperidinamine hydrochloride | 0.316 g | Cl.ClC=1C=C(CN2CCC(CC2)N)C=CC1Cl
reactant | triethylamine | 0.218 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | dimethylacetamide | 1 ml | CC(=O)N(C)C | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[1-(3,4-dichlorobenzyl)-4-piperidinyl]-3-[3-(2-pyridinyl)-1H-1,2,4-triazol-5-yl]propanamide | 0.02 g | ClC=1C=C(CN2CCC(CC2)NC(CCC2=NC(=NN2)C2=NC=CC=C2)=O)C=CC1Cl | C22H24Cl2N6O
